US06262044B1
2-Amino-4,5-dihydro-7H-thieno[2,3-c]pyran-3-carboxylic acid ethyl ester (26 g, 0.114 mol) was dissolved in formamide (200 ml) and the resulting mixture was heated at reflux temperature for 1.5 h. After cooling to room temperature the precipitate was filtered off, washed with water (2×80 ml) and dried in vacuo at 50° C. for 18 h which afforded 10.0 g (42%) of 5,6-dihydro-8H-pyrano[4′,3′:4,5]thieno[2,3-d]pyrimidin-4-one as a solid.

reactant | 2-Amino-4,5-dihydro-7H-thieno[2,3-c]pyran-3-carboxylic acid ethyl ester | 0.114 mol, 26 g | C(C)OC(=O)C1=C(SC=2COCCC21)N | C10H13NO3S
reactant | formamide | 200 ml | C(=O)N | CH3NO
product | 5,6-dihydro-8H-pyrano[4′,3′:4,5]thieno[2,3-d]pyrimidin-4-one | 10.0 g, 42% | N1=CNC(C2=C1SC1=C2CCOC1)=O | C9H8N2O2S
